US06777418B2
To a solution of 15.3 g (51.5 mmol) of 2-bromo-3-methyl-6-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene in 120 ml of pyridine was added 17.9 ml (192 mmol) of phosphorus oxychloride. The reaction mixture was heated to 100°. After 6 h, cooled to room temperature and carefully poured onto ice with stirring. After 1 h, extracted with ethyl acetate, washed with 2 N HCl and brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by gravity chromatography (gradient elution: hexane-10% ethyl acetate/hexane) to afford 12.5 g (87%) of 2-bromo-3,5,5,8,8-pentamethyl-5,8-dihydronaphthalene.

reactant | 2-bromo-3-methyl-6-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene | 51.5 mmol, 15.3 g | BrC1=CC=2C(CC(C(C2C=C1C)(C)C)O)(C)C | C15H21BrO
reactant | phosphorus oxychloride | 192 mmol, 17.9 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | pyridine | 120 ml | N1=CC=CC=C1 | C5H5N
product | 2-bromo-3,5,5,8,8-pentamethyl-5,8-dihydronaphthalene | 12.5 g, 87% | BrC1=CC=2C(C=CC(C2C=C1C)(C)C)(C)C | C15H19Br
